US05679696
Sodium thiomethoxide (8.05 g, 0.115 mol) is added portionwise to a stirred solution of methyl 3-cyclopentyloxy-4-nitrobenzoate (26.5 g, 0.1 mol) in N,N'-dimethylimidazolidinone (200 mL) at ambient temperature under an atmosphere of nitrogen and stirring continued for 4 hours. The mixture is then diluted with water (1200 mL) containing sodium chloride (200 g) and extracted with ethyl acetate (2×300 mL). The combined extract is washed with saturated brine (2×300 mL) and then evaporated under reduced pressure to give methyl 3-cyclopentyloxy-4-(methylthio)benzoate (24.4g, 91.7%) as an orange brown solid which is used without further purification.

reactant | Sodium thiomethoxide | 0.115 mol, 8.05 g | C[S-].[Na+]
reactant | methyl 3-cyclopentyloxy-4-nitrobenzoate | 0.1 mol, 26.5 g | C1(CCCC1)OC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C13H15NO5
reactant | sodium chloride | 200 g | [Cl-].[Na+]
solvent | N,N'-dimethylimidazolidinone | 200 mL | CN1C(N(CC1)C)=O | C5H10N2O
solvent | water | 1200 mL | O | H2O
product | methyl 3-cyclopentyloxy-4-(methylthio)benzoate | 24.4g, 91.7% | C1(CCCC1)OC=1C=C(C(=O)OC)C=CC1SC | C14H18O3S
